US05912257
Preparation of trans-4-[p-(N,N-dimethylamino)styryl]-N-methylpyridinium tetraphenyborate ("dye2")
14.9 g (0.1 mol) of 4-(N,N-dimethylamino)benzaldehyde were reacted with 23.6 g (0.1 mol) of 4-methyl-N-methylpyridinium iodide, prepared according to Example 3, and the resulting solution was treated with 34.6 g (0.1 mol) of sodium tetraphenyborate, under the conditions described in Example 6, to form dye2 as a red solid in a yield of 70%. 1H-NMR (DMSO-d6) δ3.00 (s, 6H), 4.1 (s, 3H), 6.70 (t, 4H), 6.8 (t, d, 2H), 6.9 (t, 8H), 7.02 (d, 1H), 7.10 (d, 8H) 7.50 d, 2H), 7.9 (d, 1H), 8.0 (d, 2H), 8.62 (d, 2H) ppm. Td 266° C.

reactant | 4-(N,N-dimethylamino)benzaldehyde | 0.1 mol, 14.9 g | CN(C)C1=CC=C(C=O)C=C1 | C9H11NO
reactant | 4-methyl-N-methylpyridinium iodide | 0.1 mol, 23.6 g | [I-].CC1=CC=[N+](C=C1)C
reactant | sodium tetraphenyborate | 0.1 mol, 34.6 g | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
product | trans-4-[p-(N,N-dimethylamino)styryl]-N-methylpyridinium tetraphenyborate | yield of 70% | C1(=CC=CC=C1)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CN(C)C1=CC=C(/C=C/C2=CC=[N+](C=C2)C)C=C1 | InChI=1S/C24H20B.C16H19N2/c1-5-13-21(14-6-1)25(22-15-7-2-8-16-22,23-17-9-3-10-18-23)24-19-11-4-12-20-24;1-17(2)16-8-6-14(7-9-16)4-5-15-10-12-18(3)13-11-15/h1-20H;4-13H,1-3H3/q-1;+1
